US06297239B1
Step B: Preparation of (4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanol
To a solution of 4-bromo-3-fluorobenzaldehyde (1.6 g, 7.88 mmol) in diethylether (20 mL) at 0° C. was added 4-chlorophenyl-magnesiumbromide (1Mether, 9.46 mL, 9.46 mmol) dropwise via syringe. The cooling bath was removed and after the mixture was stirred for 18 hr it was cooled to 0° C. and saturated NH4Cl solution (20 mL) was added to quench the reaction. The reaction mixture was partitioned between EtOAc and saturated NaHCO3 solution. The EtOAc layer was washed with H2O, brine, and dried (MgSO4). Filtration and concentration in vacuo gave the title compound as a solid after chromatography (silica gel, hexane:EtOAc/85:15).

reactant | 4-bromo-3-fluorobenzaldehyde | 7.88 mmol, 1.6 g | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
reactant | 4-chlorophenyl-magnesiumbromide | 9.46 mmol, 9.46 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
product | (4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanol | BrC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)Cl)F | C13H9BrClFO
